US04536505
A solution of 1.1 g of 2-[4-(ethoxycarbonyl)butadienyl)-N-(3-pyridyl)indole in 25 ml of 95% ethanol is hydrogenated at 3 atmospheres pressure with 0.2 g of 10% palladium on charcoal for 31/2 hours. The reaction mixture is filtered through celite and evaporated to yield 2-[4-(ethoxycarbonyl)butyl)-N-(3-pyridyl)indole as a yellow oil; Rf (15% ethyl acetate in toluene/silica gel)=0.65; IR (CH2Cl2) 1726 cm-1.

reactant | 2-[4-(ethoxycarbonyl)butadienyl)-N-(3-pyridyl)indole | 1.1 g | C(C)OC(=O)C=CC=CC=1N(C2=CC=CC=C2C1)C=1C=NC=CC1 | C20H18N2O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.2 g | [Pd] | Pd
product | 2-[4-(ethoxycarbonyl)butyl)-N-(3-pyridyl)indole | C(C)OC(=O)CCCCC=1N(C2=CC=CC=C2C1)C=1C=NC=CC1 | C20H22N2O2
